US07427613B2
Cyclopropyl-(3,5-difluorobenzyl)amine
Synthesized according to typical procedure J from 3,5difluorobenzaldehyde and cyclopropylamine.

reactant | 3,5difluorobenzaldehyde | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | Cyclopropyl-(3,5-difluorobenzyl)amine | C1(CC1)NCC1=CC(=CC(=C1)F)F | C10H11F2N
